US08536179B2
To a glass pressure vessel was added methyl 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate (500 mg, 1.612 mmol), 4-fluoro-3-formylbenzeneboronic acid (375 mg, 2.233 mmol), Potassium phosphate (1.1 g, 5.18 mmol), dioxane (12 mL) and water (3 mL). The reaction was purged with N2 and charged with PdCl2(dppf)-CH2Cl2 adduct (120 mg, 0.147 mmol). The reaction was capped and stirred at 110° C. for 4 hr. LCMS showed that the reaction was complete. The reaction was diluted with water, extracted with EtOAc, washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. Purification by silica gel chromatography (Analogix, SF25-60 g, 0 to 50% EtOAc in hexanes) gave the product methyl 6-(4-fluoro-3-formylphenyl)-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate (560 mg, 1.585 mmol, 98% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ=10.30 (s, 1H), 8.24-8.13 (m, 2H), 8.10 (d, J=1.5 Hz, 1H), 7.75 (d, J=1.8 Hz, 1H), 7.57-7.46 (m, 2H), 4.98 (quip, J=6.6 Hz, 1H), 3.91 (s, 3H), 2.31 (s, 3H), 1.46 (d, J=6.6 Hz, 6H). MS (ES)+m/e 354.2 [M+H]+.

reactant | methyl 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate | 1.612 mmol, 500 mg | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C14H16BrNO2
reactant | 4-fluoro-3-formylbenzeneboronic acid | 2.233 mmol, 375 mg | FC1=C(C=C(C=C1)B(O)O)C=O | C7H6BFO3
reactant | Potassium phosphate | 5.18 mmol, 1.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.147 mmol, 120 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 3 mL | O | H2O
solvent | EtOAc | 60 g | CCOC(=O)C | C4H8O2
product | methyl 6-(4-fluoro-3-formylphenyl)-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate | 1.585 mmol, 560 mg, 98% yield | FC1=C(C=C(C=C1)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC)C=O | C21H20FNO3
